US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (0.89 g, 3.6 mmol) and 4-fluorophenyl isocyanate (409 μL, 3.6 mmol) in THF (20 mL) are reacted according to method C yielding 0.71 g of the product as a colorless solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 3.6 mmol, 0.89 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 4-fluorophenyl isocyanate | 3.6 mmol, 409 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline | 0.71 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C20H18ClFN4O
